US06525077B2
Iodomethyl N-(3-(N-tert-butoxycarbonylamino)-propyl)-carbamate
A solution of chloromethyl N-(3-(N-tert-butoxycarbonylamino)-propyl)carbamate (2 g) and sodium iodide (4.5 g) in acetonitrile (15 ml) was stirred for 1 hour at room temperature, evaporated in vacuo, redissolved in dichloromethane and filtered. The filtrate was evaporated in vacuo and the residue was purified by chromatography on silica gel with ethyl acetate/hexane (1:2) as eluent to yield the title compound as colourless crystals.

reactant | chloromethyl N-(3-(N-tert-butoxycarbonylamino)-propyl)carbamate | 2 g | C(C)(C)(C)OC(=O)NCCCNC(OCCl)=O | C10H19ClN2O4
reactant | sodium iodide | 4.5 g | [I-].[Na+]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | Iodomethyl N-(3-(N-tert-butoxycarbonylamino)-propyl)-carbamate | C(C)(C)(C)OC(=O)NCCCNC(OCI)=O | C10H19IN2O4
